US06797718B2
4-[(2-Chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]butan-1-ol (20.00 g, 93.07 mmol) and additional dioxane (˜30 mL) were added. The reaction mixture was heated at reflux for 3 hours and then allowed to stand at ambient temperature overnight. The reaction mixture was concentrated under reduced pressure. The residue was diluted with water (200 mL) and then extracted with ethyl acetate (300 mL). The extract was washed with water (2×100 mL) then with brine, dried over magnesium sulfate, filtered and then concentrated under reduced pressure to provide an oil. The oil was purified by flash chromatography (600 mL of silica gel, eluting initially with 2000 mL 1:3 ethyl acetate:hexanes, then with 2000 mL 1:1 ethyl acetate:hexanes and finally with 1000 mL 3:1 ethyl acetate: hexanes) to provide 13.46 g of 4-[(2,3-dimethyl-5-nitro-6-phenoxypyridin-4-yl)amino]butan-1-ol as a yellow solid.

reactant | 4-[(2-Chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]butan-1-ol | 93.07 mmol, 20.00 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCCCCO)C)C | C11H16ClN3O3
reactant | dioxane | ˜30 mL | O1CCOCC1 | C4H8O2
product | 4-[(2,3-dimethyl-5-nitro-6-phenoxypyridin-4-yl)amino]butan-1-ol | 13.46 g | CC1=NC(=C(C(=C1C)NCCCCO)[N+](=O)[O-])OC1=CC=CC=C1 | C17H21N3O4
